US07157454B2
A) 2-(tert-Butoxycarbonylamino)-3-(4-cyanophenyl)-N,N-diisopropylpropionamide
A mixture of 1 g of 2-(tert-butoxycarbonylamino)-3-(4-cyanophenyl)propionic acid and 0.540 g of diisopropylamine in 10 ml of DCM is cooled to 0° C., 0.960 ml of triethylamine is added, followed by addition of 1.76 g of bromotripyrrolidinophosphonium hexafluorophosphate, and the mixture is stirred for 2 hours and allowed to warm to RT. The reaction mixture is concentrated under vacuum, the residue is extracted with EtOAc, the organic phase is washed with water, with 5% KHSO4 solution, with water, with saturated NaHCO3 solution and with saturated NaCl solution and dried over Na2SO4, and the solvent is evaporated off under vacuum. The residue is chromatographed on silica gel, eluting with a heptane/EtOAc mixture (80/20; v/v). 0.4 g of the expected product is obtained; m.p.=172° C.

reactant | 2-(tert-butoxycarbonylamino)-3-(4-cyanophenyl)propionic acid | 1 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)C#N | C15H18N2O4
reactant | diisopropylamine | 0.540 g | C(C)(C)NC(C)C | C6H15N
reactant | triethylamine | 0.960 ml | C(C)N(CC)CC | C6H15N
reactant | bromotripyrrolidinophosphonium hexafluorophosphate | 1.76 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(tert-Butoxycarbonylamino)-3-(4-cyanophenyl)-N,N-diisopropylpropionamide | 0.4 g | C(C)(C)(C)OC(=O)NC(C(=O)N(C(C)C)C(C)C)CC1=CC=C(C=C1)C#N | C21H31N3O3
